US07037905B2
2-(3-Chlorophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane
The title compound (65%, crystals) was prepared from 3-chlorophenylboronic acid and neopentylglycol.

reactant | 3-chlorophenylboronic acid | ClC=1C=C(C=CC1)B(O)O | C6H6BClO2
reactant | neopentylglycol | CC(C)(CO)CO | C5H12O2
product | 2-(3-Chlorophenyl)-5,5-dimethyl-[1,3,2]dioxaborinane | 65% | ClC=1C=C(C=CC1)B1OCC(CO1)(C)C | C11H14BClO2
